US07816522B2
(1b) 2-(2-fluoro-4,5-dimethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]thioacetamide
After adding 36.8 ml of a 20% aqueous solution of ammonium sulfide to a solution of 7.97 g of (2-fluoro-4,5-dimethoxyphenyl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]acetonitrile in 750 ml of a methanol:tetrahydrofuran (hereinafter, “THF”)=2:1 mixed solvent, the mixture was stirred at room temperature for 22 hours. Next, 1500 ml of ethyl acetate and 1000 ml of water were added to the reaction mixture, stirring was carried out at room temperature for 15 minutes, and the precipitate was filtered off. The organic layer in the filtrate was washed with saturated brine and dried over anhydrous sodium sulfate. The desiccating agent was filtered off, and the filtrate was concentrated under reduced pressure and combined with the previously obtained precipitate to give the title compound (8.59 g) as a light yellow solid.

reactant | ammonium sulfide | [NH4+]=S
reactant | (2-fluoro-4,5-dimethoxyphenyl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]acetonitrile | 7.97 g | FC1=C(C=C(C(=C1)OC)OC)C(C#N)NC1=CC=C(C=C1)C1=NOC(=N1)C | C19H17FN4O3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | THF | C1CCOC1 | C4H8O
reactant | ethyl acetate | 1500 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 750 ml | CO | CH4O
solvent | water | 1000 ml | O | H2O
product | 2-(2-fluoro-4,5-dimethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]thioacetamide | 8.59 g | FC1=C(C=C(C(=C1)OC)OC)C(C(=S)N)NC1=CC=C(C=C1)C1=NOC(=N1)C | C19H19FN4O3S
